US05705188
In 30 ml of xylene was dissolved 854 mg (5.3 mmol) of 2-O-tetrahydrofuranylglycerol. To this was added 1.78 g (15.9 mmol) of t-butoxypotassium under argon gas and the mixture was stirred for 5 minutes. Then, 10 ml of a solution of 6.71 g (15.9 mmol) oleyl p-toluenesulfonate in xylene was added dropwise and the mixture was stirred under reduced pressure (20-30 mmHg) at ambient temperature for 30 minutes and further at 50° C. for 1 hour. This reaction mixture was poured in ice-water and extracted with ether, and the extract was washed with water, dried, and concentrated. The residue was purified by column chromatography (silica gel/chloroform) to provide 628 mg (18%) of 1,3-O-dioleyl-2-O-tetrahydrofuranylglycerol as yellow oil.

reactant | 2-O-tetrahydrofuranylglycerol | 5.3 mmol, 854 mg | O1C(CCC1)OC(CO)CO | C7H14O4
reactant | t-butoxypotassium | 15.9 mmol, 1.78 g | C(C)(C)(C)O[K]
reactant | oleyl p-toluenesulfonate | 15.9 mmol, 6.71 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCCCCCC\C=C/CCCCCCCC)C | C25H42O3S
solvent | xylene | 30 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1,3-O-dioleyl-2-O-tetrahydrofuranylglycerol | 628 mg, 18% | C(CCCCCCC\C=C/CCCCCCCC)OCC(OC1OCCC1)COCCCCCCCC\C=C/CCCCCCCC | C43H82O4
